US07115642B2
2-Chloro-6-bromobenzaldehyde (200 mg, 0.91 mmol), pyridine-4-boronic acid (125 mg, 1.0 mmol), dichlorobis(triphenylphosphine)palladium (II) (5 mol %, 30 mg), acetonitrile (2 mL) and aqueous sodium carbonate (2 molar solution, 2 mL) were combined in a microwave vial and sealed with a crimp seal. The mixture was microwaved at 150° C. for 5 min. The crude reaction mixture was then poured over Celite and washed with acetonitrile. The mixture was concentrated under reduced pressure and taken up in ethyl acetate. This organic solution was successively washed with water and brine, then dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel, eluting with 98:2 methylene chloride:methanol to provide 2-chloro-6-(4-pyridyl)benzaldehyde (100 mg, 51% yield). NMR (300 MHz, CDCl3): 10.3 (s, 1H), 8.65 (m, 2H), 7.55 (m, 2H), 7.2 ppm (m, 3H).

reactant | 2-Chloro-6-bromobenzaldehyde | 0.91 mmol, 200 mg | ClC1=C(C=O)C(=CC=C1)Br | C7H4BrClO
reactant | pyridine-4-boronic acid | 1.0 mmol, 125 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | sodium carbonate | 2 molar, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | methanol | CO | CH4O
product | 2-chloro-6-(4-pyridyl)benzaldehyde | 100 mg, 51% yield | ClC1=C(C=O)C(=CC=C1)C1=CC=NC=C1 | C12H8ClNO
